US04083860
In a 500 ml four-neck round-bottom flask having a thermometer, stirrer, standard taper glass stopper, stillhead with condenser, cooled distillate receiver and cold trap, 116.4 g of tributyltin acetate and 92 g of diethyl phosphite are heated with stirring to about 150° with ethyl acetate being distilled off. After a reaction time of 6 hours, of which one hour is under vacuum, ca. 5 mm Hg, the excess dimethyl phosphite is distilled off and 134 g of tributyltin ethyl phosphite are obtained.

reactant | tributyltin acetate | 116.4 g | C(C)(=O)[O-].C(CCC)[Sn+](CCCC)CCCC
reactant | diethyl phosphite | 92 g | P(OCC)(OCC)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tributyltin ethyl phosphite | 134 g | C(C)OP([O-])[O-].C(CCC)[Sn+2](CCCC)CCCC | InChI=1S/3C4H9.C2H5O3P.Sn/c3*1-3-4-2;1-2-5-6(3)4;/h3*1,3-4H2,2H3;2H2,1H3;/q;;;-2;+2
